US08686004B2
Stage 2: N-(Methylsulphonyl)-2-[1-(pyridin-3-yl)-1H-pyrazol-4-yl]-1,3-thiazole-4-carboxamide
Under argon, 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]pyridine (0.1 g, 0.37 mmol), 2-bromo-N-(methylsulphonyl)-1,3-thiazole-4-carboxamide (0.105 g, 0.37 mmol) and tetrakis(triphenylphosphine)palladium (0.013 g, 0.011 mmol) were added to a mixture, degassed by means of argon, of sodium carbonate solution in water (1.5 ml, 2 M/L) and acetonitrile (3.8 ml). The reaction mixture was stirred at 70° C. for 16 h. After cooling, the reaction mixture was poured onto water and extracted with dichloromethane. The organic phase was dried over sodium sulphate and the solvent was removed under reduced pressure. The residue was subsequently stirred with diethyl ether and filtered off with suction. This gave 0.23 g (97% of theory) of 6-[1-(pyridin-3-yl)-1H-pyrazol-4-yl]pyridine-2-sulphonamide.

reactant | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]pyridine | 0.37 mmol, 0.1 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C=1C=NC=CC1)C | C14H18BN3O2
reactant | 2-bromo-N-(methylsulphonyl)-1,3-thiazole-4-carboxamide | 0.37 mmol, 0.105 g | BrC=1SC=C(N1)C(=O)NS(=O)(=O)C | C5H5BrN2O3S2
catalyst | tetrakis(triphenylphosphine)palladium | 0.011 mmol, 0.013 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(Methylsulphonyl)-2-[1-(pyridin-3-yl)-1H-pyrazol-4-yl]-1,3-thiazole-4-carboxamide | CS(=O)(=O)NC(=O)C=1N=C(SC1)C=1C=NN(C1)C=1C=NC=CC1 | C13H11N5O3S2
